US07723329B2
3-Chlorobenzylbromide (0.90 mL, 6.8 mmol) was added to a stirring suspension of toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester (3.24 g, 6.20 mmol) and cesium carbonate (2.21 g, 6.78 mmol) in acetone (80 mL). The mixture was stirred at ambient temperature under nitrogen for 2 hours. It was then poured into excess water and extracted with chloroform. The organic phase was washed with brine, dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography using 30-35% ethyl acetate in hexane. Drying at 65° C. in vacuo for 30 minutes gave toluene-4-sulfonic acid 2-[1-(3-chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazol -5-yloxy]-ethyl ester as a dark yellow foam (2.55 g, 63.6%); Mass Spectrum (+EI, [M+H]+) m/z 647. 1HNMR (500 MHz, DMSO-d6): δ8.73-8.75 (m, 1H), 8.55-8.57 (m, 1H), 8.27 (d, 1H, J=8.30 Hz), 8.01-8.04 (m, 1H), 7.67-7.75 (m, 4H), 7.56-7.63 (m, 2H), 7.17-7.27 (m, 5H), 7.05-7.07 (m, 2H), 6.98 (dd, 1H, J=9.28 Hz and 2.32 Hz), 5.71 (s, 2H), 4.31-4.33 (m, 2H), 4.15-4.17 (m, 2H), 2.17 ppm (s, 3H). Elemental Analysis for C33H27ClN2O6S2: Calcd: C, 61.25; H, 4.21; N, 4.33; Found: C, 60.93; H, 4.22; N, 4.21.

reactant | 3-Chlorobenzylbromide | 6.8 mmol, 0.90 mL | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | toluene-4-sulfonic acid 2-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester | 6.20 mmol, 3.24 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C26H22N2O6S2
reactant | cesium carbonate | 6.78 mmol, 2.21 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | acetone | 80 mL | CC(=O)C | C3H6O
product | toluene-4-sulfonic acid 2-[1-(3-chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazol -5-yloxy]-ethyl ester | 2.55 g, 63.6% | ClC=1C=C(CN2N=C(C3=CC(=CC=C23)OCCOS(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C33H27ClN2O6S2
